US08426411B2
2-Bromo-5-tosyl-5H-pyrrolo[2,3-b]pyrazine (30.0 g, 85 mmol), tert-butyl carbamate (14.9 g, 128 mmol), 325 mesh potassium carbonate (35.3 g, 256 mmol), palladium acetate (0.19 g, 0.85 mmol) and 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (Xantphos) (0.99 g, 1.70 mmol) were charged to a three-neck, 1 L cylindrical reactor equipped with an over head stirrer, thermocouple and a reflux condenser. The solids were purged with argon for not less than 120 min. 2-methyl-butanol (240 mL) and 1,4-dioxane (60 mL) were charged to a separate 500 mL round bottom flask and purged with argon for not less than 60 min. The solvent mixture was transferred to the 1 L flask using a cannula under a positive pressure of argon, the temperature was raised to about 95° C. and the reaction mixture was stirred for about 3 h under a positive pressure of argon. The reaction mixture was cooled to about 40° C., THF (100 mL) was added and filtered through a 2 inch pad of celite. The reaction mixture was split into 2 equal batches (about 200 mL) and each of the batches were purified separately. Each batch was diluted with THF (250 mL) and was transferred to a 1 L cylindrical flask equipped with a magnetic stir bar. A solution of L-cysteine (0.76 g), potassium bicarbonate (1.52 g) and sodium chloride (0.76 g) in water (250 mL) was added to the above flask and was allowed to stir for about 2-4 h. The aqueous layer was separated. Formation of a rag layer was observed that was kept with the organic layer. The organic layer was washed with saturated sodium chloride solution (100 mL) and the aqueous layer was separated. Charcoal (0.76 g) was added to the flask, stirred for about 2-4 h, filtered through a 2 inch pad of celite, rinsed with THF (30 mL) and concentrated in vacuo at about 60° C. to obtain an oil/solid slurry. A mixture of isopropanol (50 mL) and heptanes (15 mL) were added to the oil/solid slurry and concentrated in vacuo to obtain light yellow colored solid. Isopropanol (90 mL) was added to the solid, heated to about 60° C. and mixed for about 1 h. The mixture was allowed to cool to room temperature with stirring, solids were filtered off, rinsed with heptane (40 mL) and dried overnight in a vacuum oven at about 50° C. The 2 batches were combined to obtain tert-butyl 5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-ylcarbamate (12.87 g), as a light yellow colored solid. 1H NMR (400 MHz, DMSO) δ 10.11 (s, 1H), 8.77 (s, 1H), 8.16 (d, J=4.1 Hz, 1H), 7.99-7.92 (m, 2H), 7.40 (d, J=8.4 Hz, 2H), 6.83 (d, J=4.1 Hz, 1H), 2.32 (s, 3H), 1.46 (s, 9H).

reactant | 2-Bromo-5-tosyl-5H-pyrrolo[2,3-b]pyrazine | 85 mmol, 30.0 g | BrC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C13H10BrN3O2S
reactant | tert-butyl carbamate | 128 mmol, 14.9 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | potassium carbonate | 256 mmol, 35.3 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium acetate | 0.85 mmol, 0.19 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 1.70 mmol, 0.99 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | Isopropanol | 90 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | tert-butyl 5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-ylcarbamate | 12.87 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC=2C1=NC=C(N2)NC(OC(C)(C)C)=O | C18H20N4O4S
